US08735414B2
A mixture of 1-cyclopentyl-5-fluoro-3-(methoxycarbonyl)-6-methyl-1H-indol-2-ylboronic acid (2.2 mmol), (S)-6-chloro-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide (0.53 g, 1.83 mmol), PdCl2dppf (0.15 g, 0.183 mmol), aq. K2CO3 (2.0 M, 3.6 mL, 7.2 mmol) in acetonitrile (10 mL) was stirred at room temperature over the weekend. The mixture was treated with ethyl acetate and washed with water and brine and then concentrated. The residue was purified by flash chromatography with 0-15% ethyl acetate in CH2Cl2 to provide (S)-methyl 1-cyclopentyl-5-fluoro-6-methyl-2-(5-(N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-1H-indole-3-carboxylate (0.52 g, 54%). MS m/z 528.2 M+H+; 1H NMR (500 MHz, CDCl3): δ 9.21 (1H, d, J=1.8 Hz), 8.25 (1H, dd, J=8.2 Hz, J=2.2 Hz), 7.87 (1H, d, J=10.6 Hz), 7.73 (1H, d, J=8.2 Hz), 7.27 (1H, d, J=5.2 Hz), 5.09 (1H, d, J=9.6 Hz), 4.39-4.31 (1H, m), 4.17-4.10 (1H, m), 3.70 (3H, s), 2.44 (3H, d, J=1.8 Hz), 2.41-2.36 (2H, m), 2.20-1.96 (4H, m), 1.67-1.63 (2H, m), 1.45 (3H, d, J=7.0 Hz).

reactant | 1-cyclopentyl-5-fluoro-3-(methoxycarbonyl)-6-methyl-1H-indol-2-ylboronic acid | 2.2 mmol | C1(CCCC1)N1C(=C(C2=CC(=C(C=C12)C)F)C(=O)OC)B(O)O | C16H19BFNO4
reactant | (S)-6-chloro-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide | 1.83 mmol, 0.53 g | ClC1=CC=C(C=N1)S(=O)(=O)N[C@H](C(F)(F)F)C | C8H8ClF3N2O2S
reactant | K2CO3 | 7.2 mmol, 2.0 M, 3.6 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (S)-methyl 1-cyclopentyl-5-fluoro-6-methyl-2-(5-(N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-1H-indole-3-carboxylate | 0.52 g, 54% | C1(CCCC1)N1C(=C(C2=CC(=C(C=C12)C)F)C(=O)OC)C1=NC=C(C=C1)S(N[C@H](C(F)(F)F)C)(=O)=O | C24H25F4N3O4S
